US05212320
To a solution of benzyl 4-[3-(3-nitrobenzyl)indol-1-yl]-4-oxobutyrate (320 mg) in a mixture of 1,4-dioxane (6 ml) and methanol (3 ml) was added 10% palladium on activated carbon (60 mg), and the mixture was shaken under hydrogen atmosphere (3 atm) at 25° C. for 1.5 hours. The catalyst was filtered off and the filtrate was evaporated. The crude crystals were washed with hot chloroform and hot ethyl acetate to give 4-[3-(3-aminobenzyl)indol-1-yl]-4-oxobutyric acid (157 mg).

reactant | benzyl 4-[3-(3-nitrobenzyl)indol-1-yl]-4-oxobutyrate | 320 mg | [N+](=O)([O-])C=1C=C(CC2=CN(C3=CC=CC=C23)C(CCC(=O)OCC2=CC=CC=C2)=O)C=CC1 | C26H22N2O5
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 3 ml | CO | CH4O
catalyst | palladium on activated carbon | 60 mg | [Pd] | Pd
product | 4-[3-(3-aminobenzyl)indol-1-yl]-4-oxobutyric acid | 157 mg | NC=1C=C(CC2=CN(C3=CC=CC=C23)C(CCC(=O)O)=O)C=CC1 | C19H18N2O3
